US08629160B2
A mixture of phenylboronic acid (286 mg, 2.35 mmol), methyl 3-aminothiophene-2-carboxylate (369 mg, 2.35 mmol), and 2-oxoacetic acid hydrate (216 mg, 2.35 mmol) in acetonitrile (20 ml) was stirred at room temperature for 2 hours. The reaction was filtered, and the precipitated was washed with little acetonitrile. The solution was concentrated under reduced pressure, and the precipitate was collected again by filtration, washing with little acetonitrile. The combined precipitates were dried under vacuum overnight to obtain 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetic acid (558 mg, 82% yield).

reactant | phenylboronic acid | 2.35 mmol, 286 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | methyl 3-aminothiophene-2-carboxylate | 2.35 mmol, 369 mg | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | 2-oxoacetic acid hydrate | 2.35 mmol, 216 mg | O.O=CC(=O)O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetic acid | 558 mg, 82% yield | COC(=O)C=1SC=CC1NC(C(=O)O)C1=CC=CC=C1 | C14H13NO4S
